Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][C@@H:2]([CH2:3][c:4]1[cH:5][cH:6][cH:7][s:8]1)[C:9](=[O:10])[N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1>>[NH2:1][C@@H:2]([CH2:3][c:4]1[cH:5][cH:6][cH:7][s:8]1)[C:9](=[O:10])[N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@@H:2]([CH2:3][c:4]1[cH:5][cH:6][cH:7][s:8]1)[C:9](=[O:10])[N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1.[H+:301]>>[NH2:1][C@@H:2]([CH2:3][c:4]1[cH:5][cH:6][cH:7][s:8]1)[C:9](=[O:10])[N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[o:3][n:4][c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10]([F:11])[cH:12][cH:13]2)[n:14]1.[CH3:15][C:16]([CH3:17])([CH3:18])[O:19][C:20](=[O:21])[C:22]([CH3:23])([CH3:24])[S:25][c:26]1[cH:27][cH:28][c:29]([CH2:30][NH:31][CH2:32][c:33]2[cH:34][cH:35][cH:36][o:37]2)[cH:38][cH:39]1>>[CH2:1]([c:2]1[o:3][n:4][c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10]([F:11])[cH:12][cH:13]2)[n:14]1)[N:31]([CH2:30][c:29]1[cH:28][cH:27][c:26]([S:25][C:22]([C:20]([O:19][C:16]([CH3:15])([CH3:17])[CH3:18])=[O:21])([CH3:23])[CH3:24])[cH:39][cH:38]1)[CH2:32][c:33]1[cH:34][cH:35][cH:36][o:37]1,[CH3:15][C:16]([CH3:17])([CH3:18])[O:19][C:20](=[O:21])[C:22]([CH3:23])([CH3:24])[S:25][c:26]1[cH:27][cH:28][c:29]([CH2:30][NH:31][CH2:32][c:33]2[cH:34][cH:35][cH:36][o:37]2)[cH:38][cH:39]1.[Cl:101][CH2:1][c:2]1[o:3][n:4][c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10]([F:11])[cH:12][cH:13]2)[n:14]1>>[CH2:1]([c:2]1[o:3][n:4][c:5]([CH2:6][c:7]2[cH:8][cH:9][c:10]([F:11])[cH:12][cH:13]2)[n:14]1)[N:31]([CH2:30][c:29]1[cH:28][cH:27][c:26]([S:25][C:22]([C:20]([O:19][C:16]([CH3:15])([CH3:17])[CH3:18])=[O:21])([CH3:23])[CH3:24])[cH:39][cH:38]1)[CH2:32][c:33]1[cH:34][cH:35][cH:36][o:37]1,SN2,"[(31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([c:8]1[O:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14]1)[O:15][CH2:16][C:17]2=[O:18]>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([c:8]1[O:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14]1)[O:15][CH2:16][CH:17]2[OH:18],[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([c:8]1[O:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14]1)[O:15][CH2:16][C:17]2=[O:18].[BH4-:301].[CH3][OH1:302]>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([c:8]1[O:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14]1)[O:15][CH2:16][CH:17]2[OH:18],carbonyl_reduction,"[([301, 301.1], 17), ([17, 18], 18), (18, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C@H:2]([CH2:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]12)[c:13]1[n:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([F:20])[cH:21][cH:22]2)[cH:23][nH:24]1>>[NH2:1][C@H:2]([CH2:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]12)[c:13]1[n:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([F:20])[cH:21][cH:22]2)[cH:23][nH:24]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@H:2]([CH2:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]12)[c:13]1[n:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([F:20])[cH:21][cH:22]2)[cH:23][nH:24]1.[H+:301]>>[NH2:1][C@H:2]([CH2:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]12)[c:13]1[n:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([F:20])[cH:21][cH:22]2)[cH:23][nH:24]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[O:9][CH2:10][O:11]2.[CH3:12][O:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[O:20][CH3:21]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[O:9][CH2:10][O:11]2)[c:16]1[cH:15][c:14]([O:13][CH3:12])[c:19]([O:20][CH3:21])[cH:18][cH:17]1,[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[O:9][CH2:10][O:11]2.[CH3:12][O:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[O:20][CH3:21].Cl[Al:301](Cl)Cl>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[O:9][CH2:10][O:11]2)[c:16]1[cH:15][c:14]([O:13][CH3:12])[c:19]([O:20][CH3:21])[cH:18][cH:17]1,Friedel_Crafts_acylation,"[(101, 301), ([1, 101], 101), ([17, 16], 1), ([301, 101], 16.1), ([16.1, 16], [16, 17])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
